US03937673
A solution is formed by mixing 81.6 grams of trimellitic acid anhydride and 130.0 grams of p,p' diphenyl methane diisocyanate and 222.6 grams of o-dichlorobenzene by heating the mixture. At approximately 160°C. a clear, homogeneous solution is obtained. Once clarity is obtained 11.0 grams of adipic acid are added slowly. The temperature of the mixture is raised to approximately 180°C. and slow reflux is maintained. After approximately 40 minutes, a yellow viscous resin is obtained and 296.8 grams of phenol are added to quench and stop the reaction. The solution is maintained at 130°C. until all the resin is dissolved. The resultant solution is cooled to room temperature and filtered. The viscosity of the product at 25°C. was measured at about 2200 cps, utilizing a Brookfield viscometer and a resin solution of approximately 30% weight resin.

reactant | trimellitic acid anhydride | 81.6 grams | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
solvent | o-dichlorobenzene | 222.6 grams | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | adipic acid | 11.0 grams | C(CCCCC(=O)O)(=O)O | C6H10O4
